data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc(C(F)(F)F)cc1_2-c1ccc(Cl)cc1_3-Cc1ccccc1_4-c1ccc(N(=O)=O)cc1","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1)","C(Cc1ccccc1)(c1ccc(N(=O)=O)cc1)O"],"products_smiles": ["OC(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1).C(Cc1ccccc1)(=O)c1ccc(N(=O)=O)cc1"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(Cc1ccccc1)(c1ccc(N(=O)=O)cc1)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(Cc1ccccc1)(c1ccc(N(=O)=O)cc1)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(Cc1ccccc1)(c1ccc(N(=O)=O)cc1)[O][Al-](OC(C)C)([O+]=C(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(c1ccc(Cl)cc1).C(Cc1ccccc1)(=O)c1ccc(N(=O)=O)cc1","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NG-005_1-c1ccsc1_2-c1ccc(F)cc1_3-C1C2CCC1C2","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccsc1)C=O","C(c1ccc(F)cc1)(C1C2CCC1C2)=O"],"products_smiles": ["C(c1ccc(F)cc1)(C1C2CCC1C2)=C(C=O)c1ccsc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)=C(O)c1ccc(F)cc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)(O)C(C=[OH+])c1ccsc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)(O)C(C=O)c1ccsc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)([OH2+])C(C=O)c1ccsc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(F)cc1)(C1C2CCC1C2)=C(C=O)c1ccsc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
